US07189850B2
b) 8-(1-Methyl-2-phenyl-cyclohexyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one
To a solution of 20 mg (0.048 mmol) 1-(4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-8-yl)-2-phenyl-cyclohexane-carbonitrile in 1.5 ml dry THF under argon at 0° C. were added 0.03 ml (0.096 mmol) methyl magnesium bromide (3M solution in THF) and the resulting mixture heated to reflux for 3.5 h. The reaction mixture was cooled to ambient temperature, quenched by the addition of water and the product extracted with ethyl acetate. The combined organic extracts were then washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by chromatography on silica gel eluting with hexane/ethyl acetate: 10 mg 8-(1-methyl-2-phenyl-cyclohexyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one as colorless solid; MS (ISP): 404.6 MH+.

reactant | 1-(4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-8-yl)-2-phenyl-cyclohexane-carbonitrile | 0.048 mmol, 20 mg | O=C1NCN(C12CCN(CC2)C2(C(CCCC2)C2=CC=CC=C2)C#N)C2=CC=CC=C2 | C26H30N4O
reactant | methyl magnesium bromide | 0.096 mmol, 3M, 0.03 ml | C[Mg]Br
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 8-(1-Methyl-2-phenyl-cyclohexyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | CC1(C(CCCC1)C1=CC=CC=C1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C26H33N3O
